US05811427
a) Preparation of methyl 1,4-benzoxazine-3-one-6-carboxylate
In a 250 ml three-necked round-bottomed flask were placed methyl 3-amino-4-hydroxybenzoate (5 g, 30 mmole), benzyltriethylammonium chloride (6.8 g, 30 mmole), chloroform (75 ml) and powdered sodium bicarbonate (10.1 g, 120 mmole). The resulting mixture was cooled down to 0° C. and a solution of chloroacetyl chloride (4.1 g, 36 mmole) in chloroform (20 ml) was added dropwise at such a rate as to keep the reaction temperature between 0° C. to 3° C. After the addition was complete the reaction mixture was stirred at 0° C. for another 90 minutes, followed by slow heating to 55° C., kept at that temperature for 8 hours, and finally stirred at room temperature overnight. The solvent was removed in a rotary evaporator, the resulting crude product was taken up in water, shaken and filtered yielding, after drying in a vacuum oven, 5.8 g of the expected methyl 1,4-benzoxazine-3-one-6-carboxylate which was used in the next step without further purification.

reactant | methyl 3-amino-4-hydroxybenzoate | 30 mmole, 5 g | NC=1C=C(C(=O)OC)C=CC1O | C8H9NO3
reactant | sodium bicarbonate | 120 mmole, 10.1 g | C([O-])(O)=O.[Na+]
reactant | chloroacetyl chloride | 36 mmole, 4.1 g | ClCC(=O)Cl | C2H2Cl2O
catalyst | benzyltriethylammonium chloride | 30 mmole, 6.8 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 1,4-benzoxazine-3-one-6-carboxylate | O1CC(NC2=C1C=CC(=C2)C(=O)OC)=O | C10H9NO4
